US04859700
N-Methyl-N-[2-(2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl]glycine
This compound was prepared according to the process described in Example 11, starting with 2-(2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl chloride and N-methyl glycine.

reactant | 2-(2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl chloride | O=C1OC2=C(C1(C1=CC=CC=C1)CC(=O)Cl)C=CC=C2 | C16H11ClO3
reactant | N-methyl glycine | CNCC(=O)O | C3H7NO2
product | N-Methyl-N-[2-(2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl]glycine | CN(CC(=O)O)C(CC1(C(OC2=C1C=CC=C2)=O)C2=CC=CC=C2)=O | C19H17NO5
